US05726165
Cyclohexylhydroxymethylphosphinic acid, n-butyl ester
The title compound was prepared from cyclohexylphosphinic acid, n-butyl ester and paraformaldehyde according to the method described in Procedure 31. Purification by chromatography, eluting with dichloromethane containing 5% methanol, gave an oil.

reactant | cyclohexylphosphinic acid, n-butyl ester | C1(CCCCC1)P(OCCCC)=O | C10H21O2P
reactant | paraformaldehyde | C=O | CH2O
product | Cyclohexylhydroxymethylphosphinic acid, n-butyl ester | C1(CCCCC1)P(OCCCC)(=O)CO | C11H23O3P
